US08039469B2
A suspension of 8-(4-(4-nitrophenyl)-6-thiomorpholino-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane (0.418 g, 1.01 mmol) in pyridine (3 ml) and DMF (6 ml) was prepared. Tin(II) chloride dihydrate (0.569 g, 2.52 mmol) was then added and the off-white suspension was allowed to stir at room temperature for 16 hours, at which time the suspension was light yellow. The suspension was filtered, washing with methanol, and concentrated. LCMS indicated reaction had not gone to completion. The crude product was dissolved in DMF (6 ml) and pyridine (3 ml) and additional tin(II) chloride dihydrate (0.569 g, 2.52 mmol) was added. The solution was allowed to stir at room temperature for 18 hours, then filtered. The precipitate was washed with methanol and the filtrate was concentrated to provide 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-thiomorpholino-1,3,5-triazin-2-yl)aniline (0.195 g, 50%) as a yellow solid. (M+H) 385.1.

reactant | 8-(4-(4-nitrophenyl)-6-thiomorpholino-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 1.01 mmol, 0.418 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCSCC1)N1C2COCC1CC2 | C19H22N6O3S
reactant | Tin(II) chloride dihydrate | 2.52 mmol, 0.569 g | O.O.[Sn](Cl)Cl
reactant | tin(II) chloride dihydrate | 2.52 mmol, 0.569 g | O.O.[Sn](Cl)Cl
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-thiomorpholino-1,3,5-triazin-2-yl)aniline | 0.195 g, 50% | C12COCC(CC1)N2C2=NC(=NC(=N2)N2CCSCC2)C2=CC=C(N)C=C2 | C19H24N6OS
